US04103084
Di-t-butyl 2-Bromo-2-methylmalonate
To a stirred suspension of sodium hydride (1.7g, 80% dispersion in oil) in tetrahydrofuran (60 ml) under an atmosphere of nitrogen was added di-t-butyl methylmalonate (11.52g). The mixture was stirred at 60°-70° for 1.5 hours to give a clear solution. This solution was cooled to -25°, and to it was rapidly added a solution of bromine (2.6 ml) in dichloromethane (30ml). The solution was allowed to warm to ambient temperature, then concentrated. The residue in ether was washed with water, dried, and fractionally distilled under reduced pressure to give the title compound b.p. 78°-86°/1.0 mm Hg, (7.56g, 49%); νmax (CHBr3) 1730cm-1 (CO2But); τ (CDCl3) values include 8.05 (s, C(CH3)3) and 8.53 (2s, CH3 and C(CH3)3).

reactant | sodium hydride | 1.7g | [H-].[Na+]
reactant | di-t-butyl methylmalonate | 11.52g | CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C12H22O4
reactant | bromine | 2.6 ml | BrBr | Br2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 30ml | ClCCl | CH2Cl2
product | Di-t-butyl 2-Bromo-2-methylmalonate | BrC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C | C12H21BrO4
